2142-02-10 08:19:00 Physician Resident Progress Note
Chief Complaint: anemia
   24 Hour Events:
 MULTI LUMEN - START [**2142-2-9**] 06:22 PM
   Double Lumen
 OR RECEIVED - At [**2142-2-9**] 07:15 PM
 INVASIVE VENTILATION - START [**2142-2-9**] 07:16 PM
   FROM PACU
 ARTERIAL LINE - START [**2142-2-9**] 07:23 PM
 EKG - At [**2142-2-10**] 12:09 AM
   Followed serial Hct, trending down
   Urine output marginal at about 30cc/hr
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-2-9**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2142-2-9**] 09:00 PM
   Fentanyl - [**2142-2-10**] 04:45 AM
   Metoprolol - [**2142-2-10**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-10**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 85 (63 - 91) bpm
   BP: 99/57(176){87/49(64) - 112/75(176)} mmHg
   RR: 16 (13 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 12 (12 - 16)mmHg
   Total In:
                                                                 12,748 mL
                                                                    748 mL
   PO:
   TF:
   IVF:
                                                                  9,640 mL
                                                                    748 mL
   Blood products:
                                                                  3,108 mL
   Total out:
                                                                  4,288 mL
                                                                    312 mL
   Urine:
                                                                    188 mL
                                                                    212 mL
   NG:
   Stool:
   Drains:
                                                                     40 mL
                                                                    100 mL
   Balance:
                                                                  8,460 mL
                                                                    436 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 367 (311 - 420) mL
   PS : 15 cmH2O
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 31 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: 7.40/36/118/21/-1
   Ve: 11.3 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Intubated, sedated on propofol.  Following commands.
   Left IJ in place, dressing somewhat bloody.
   S1, S2, RRR, no murmur
   Lungs with good air entry b/l, no crackles appreciated.
   Abd soft with ostomy bag in place, small amount of bloody drainage.
   JP drains x [**Street Address(2) 933**], drained 200cc serous drainage overnight
   Ext with no edema; [**Male First Name (un) **] hose in place, left foot s/p great toe
   amputation, incision somewhat erythematous, DP palpable
   Labs / Radiology
   180 K/uL
   10.7 g/dL
   67 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.8 mEq/L
   25 mg/dL
   110 mEq/L
   139 mEq/L
   30.6 %
   6.1 K/uL
        [image002.jpg]
                             [**2142-2-9**]  08:38 PM
                             [**2142-2-9**]  09:10 PM
                             [**2142-2-10**]  12:00 AM
                             [**2142-2-10**]  12:03 AM
                             [**2142-2-10**]  04:00 AM
                             [**2142-2-10**]  04:03 AM
   WBC
   6.8
   6.1
   Hct
   34.3
   31.7
   30.6
   Plt
   202
   180
   Cr
   1.1
   1.1
   1.2
   TCO2
   21
   22
   23
   Glucose
   176
   154
   67
   Other labs: PT / PTT / INR:13.6/26.7/1.2, Fibrinogen:445 mg/dL, Lactic
   Acid:1.7 mmol/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Urine Cx pending
   CXR [**2-9**]:
   Left internal jugular line was inserted in the meantime interval with i
   ts tip
   terminating at the junction of the left brachiocephalic vein and SVC an
   d
   pointing towards the wall of the vessel.  There is no pneumothorax or a
   pical
   maternal after to the insertion.  The position of the left subclavian l
   ine is
   unchanged with its tip at the cavoatrial junction.  The ET tube tip is
   3 cm
   above the carina and the NG tube is in the fundus of the stomach.  The
   lung
   volumes remain low with bibasal opacities consistent with atelectasis.
    Small
   bilateral pleural effusion is present.  The perihilar haziness has incr
   eased
   compared to previous study which might represent volume overload.
   Assessment and Plan
   83yo gentleman with T3 rectal carcinoma transferred to the ICU after
   significant operative blood loss during lap [**3-28**].
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   -          Hct has been drifting down from 34 overnight, so unclear if
   bleed has truly stopped
   -          Follow Q4H Hct during day and transfuse for threshold of <
   30 given extensive h/o CAD
   -          If bleed clearly stabilizes and pt has no evidence of
   cardiac ischemia, would consider decreasing transfusion threshold
   tomorrow
   -          No evidence of coagulopathy
   -          Maintain active T+S
   # Respiratory failure:
   Pt not extubated after surgery out of concern for volume overload in
   setting of aggressive PRBC transfusions.
   -          CXR with evidence of volume overload, RSBI marginal
   -          Will diurese today and follow respiratory status with serial
   ABGs
   -          RSBI in AM
   # Hypotension:
   -          most likely due to propofol
   -          switch sedation to versed with boluses of fentanyl for pain
   control
   -          wean neosynephrine as tolerated
   # Volume status:
   Patient very positive in setting of fluid and RBC resuscitation after
   surgery yesterday.  Evidence of fluid overload on CXR.
   -          lasix for goal of negative 1-2L today
   -          possible that despite volume overload on CXR, patient is
   intravascularly dry.  Monitor hemodynamic status and urine output with
   lasix and reevaluate volume status in PM
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER):
   -          s/p surgery [**2-9**]
   -          continue management with surgery/oncology
 DIABETES MELLITUS (DM), TYPE II
   -          control with insulin gtt for goal blood sugar 80-120
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          given h/o CAD, would check EKG and cardiac enzymes for
   evidence of myocardial ischemia secondary to significant bleed
   yesterday
   -          consider restarting ASA and plavix in afternoon if Hct
   stable
 OLIGURIA WITH .H/O PROSTATIC HYPERTROPHY, BENIGN (BPH)
   -          patient is oliguric, most likely from poor forward flow in
   setting of volume overload
   -          diuresis with lasix as above
   -          Foley in place; of note, patient chronically straight cath
   himself at home
   ICU Care
   Nutrition: NPO; monitor ostomy for ouput
   Glycemic Control:  insulin gtt
   Lines:
   Multi Lumen - [**2142-2-9**] 06:22 PM
   16 Gauge - [**2142-2-9**] 07:22 PM
   18 Gauge - [**2142-2-9**] 07:22 PM
   Arterial Line - [**2142-2-9**] 07:23 PM
   Prophylaxis:
   DVT: heparin SubQ [**Hospital1 **]
   Stress ulcer: PPI
   VAP:  mouth care, HOB elevation, daily awakening, RSBI
   Code status: Full code
   Disposition: ICU

2142-02-11 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   hct drifting down, transfused 1unit prbc after ok from surgery
   given lasix 10mg IV x1, did not give additional lasix due to borderline
   BPs
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-2-10**] 08:00 AM
   Fentanyl - [**2142-2-10**] 09:30 AM
   Furosemide (Lasix) - [**2142-2-10**] 02:30 PM
   Heparin Sodium (Prophylaxis) - [**2142-2-10**] 08:00 PM
   Metoprolol - [**2142-2-10**] 11:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-11**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 81 (71 - 91) bpm
   BP: 128/70(90){88/47(62) - 128/70(208)} mmHg
   RR: 21 (12 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.3 kg (admission): 77.8 kg
   Height: 62 Inch
    CVP: 12 (10 - 15)mmHg
   Total In:
                                                                  1,382 mL
                                                                    470 mL
   PO:
   TF:
   IVF:
                                                                  1,382 mL
                                                                     95 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,834 mL
                                                                    292 mL
   Urine:
                                                                  1,624 mL
                                                                    262 mL
   NG:
   Stool:
   Drains:
                                                                    210 mL
                                                                     30 mL
   Balance:
                                                                   -452 mL
                                                                    178 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 373 (367 - 420) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.38/37/104/22/-2
   Ve: 8.4 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: elderly, sedated but opens eyes to loud voice
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: at bases b/l)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, ostomy with dark brown stool, JP drain with serosang outpt,
   and PCA wiring in place, all wounds C/D/I
   Extremities: Right: Absent, Left: Absent, TEDs and pboots in place
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   164 K/uL
   10.2 g/dL
   96 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.2 mEq/L
   28 mg/dL
   110 mEq/L
   139 mEq/L
   29.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2142-2-10**]  12:00 AM
                             [**2142-2-10**]  12:03 AM
                             [**2142-2-10**]  04:00 AM
                             [**2142-2-10**]  04:03 AM
                             [**2142-2-10**]  09:25 AM
                             [**2142-2-10**]  03:58 PM
                             [**2142-2-10**]  10:05 PM
                             [**2142-2-10**]  11:38 PM
                             [**2142-2-11**]  04:13 AM
                             [**2142-2-11**]  04:19 AM
   WBC
   6.1
   6.7
   6.3
   6.5
   Hct
   31.7
   30.6
   29.3
   28.6
   26.8
   29.4
   Plt
   180
   155
   149
   164
   Cr
   1.1
   1.2
   1.4
   TropT
   0.03
   0.04
   0.03
   TCO2
   22
   23
   23
   Glucose
   154
   67
   96
   Other labs: PT / PTT / INR:13.5/29.4/1.2, CK / CKMB /
   Troponin-T:733/8/0.03, Fibrinogen:445 mg/dL, Lactic Acid:1.1 mmol/L,
   Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Imaging:
   [**2-11**] CXR PND
   [**2-10**] CXR
   The endotracheal tube is in satisfactory position.  The left subclavian
   line tip is in the right atrium.  The internal jugular catheter tip
   appears to be in the left brachiocephalic/SVC junction.  There is
   residual left basal consolidation and pleural effusion.  There is
   residual mild right basal atelectasis and probably small pleural
   effusion.  Findings have not significantly changed from prior
   radiograph.
   IMPRESSION:  No change from previous radiograph.  Basal consolidation
   worse in
   the left with left pleural effusion.
   Microbiology: [**2142-2-9**] 10:00 am URINE
                               **FINAL REPORT [**2142-2-10**]**
      URINE CULTURE (Final [**2142-2-10**]):    NO GROWTH.
   Assessment and Plan
   83yo gentleman with T3 rectal carcinoma transferred to the ICU after
   significant operative blood loss during lap [**3-28**].
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   -          Bumped appropriately to 1 unit yesterday, suggesting
   relative hemostasis
   -          Follow [**Hospital1 **] HCT today
   -          transfuse for threshold of < 27 given extensive h/o CAD
   -          Maintain active T+S
   # Respiratory failure: Pt not extubated after surgery out of concern
   for volume overload in setting of aggressive IVF and PRBC transfusions.
   -          f/u AM CXR to assess volume overload
 appears improved
   -          RSBI this AM 68, would switch over to PSV, consider SBT and
   possible extubation
   # Hypotension: improved, was likely [**1-27**] sedation
   -          intravascularly repleted as evidenced by CVP = 12
   -          could wean down to versed and fentanyl  today in
   anticipation of extubation
   # Volume status: Patient was very positive in setting of fluid and RBC
   resuscitation after surgery. Appears to be improving after minimal
   diuresis yesterday
   -          will give 10mg IV lasix for goal of negative 500cc today
 Renal Failure
 appears that pt has a variable baseline, but Cr 1.4
   today, which is elevated from pre-op
   -          could be ATN from peri-operative hypotension
   -          send urine lytes to calculate [**Name (NI) 945**]
   -          pt does not appear to be intravascularly dry so lasix may
   improve renal perfusion
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER):
   -          s/p surgery [**2-9**], continue management with surgery/oncology
 DIABETES MELLITUS (DM), TYPE II
   -          control with insulin gtt for goal blood sugar 80-120
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          cardiac enzymes are flat, not convincing for ongoing
   ischemia
   -          consider restarting ASA and plavix in afternoon if Hct
   stable
 OLIGURIA WITH H/O PROSTATIC HYPERTROPHY, BENIGN (BPH)
   -          oliguria improved after transfusion and lasix
   -          diuresis with lasix as above for goal
 500cc today
   -          Foley in place; of note, patient chronically straight cath
   himself at home
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2142-2-9**] 06:22 PM
   16 Gauge - [**2142-2-9**] 07:22 PM
   18 Gauge - [**2142-2-9**] 07:22 PM
   Arterial Line - [**2142-2-9**] 07:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2142-02-11 11:46:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, anemia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Transfused 1 unit PRBCs yesterday
   Received 10 mg IV lasix and was negative 500 cc
   Patient unable to provide history: Sedated
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2142-2-10**] 02:30 PM
   Metoprolol - [**2142-2-11**] 06:00 AM
   Pantoprazole (Protonix) - [**2142-2-11**] 07:54 AM
   Heparin Sodium (Prophylaxis) - [**2142-2-11**] 07:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-11**] 11:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 74 (71 - 91) bpm
   BP: 104/50(68){86/47(62) - 128/71(208)} mmHg
   RR: 13 (12 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.3 kg (admission): 77.8 kg
   Height: 62 Inch
   CVP: 9 (9 - 15)mmHg
   Total In:
                                                                  1,382 mL
                                                                    519 mL
   PO:
   TF:
   IVF:
                                                                  1,382 mL
                                                                    144 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,834 mL
                                                                    373 mL
   Urine:
                                                                  1,624 mL
                                                                    343 mL
   NG:
   Stool:
   Drains:
                                                                    210 mL
                                                                     30 mL
   Balance:
                                                                   -452 mL
                                                                    146 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 373 (373 - 373) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 30 cmH2O
   Plateau: 28 cmH2O
   SpO2: 97%
   ABG: 7.38/37/104/22/-2
   Ve: 8.6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Thin, intubated, sedated.
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , No(t) Wheezes : , Diminished: bilateral bases)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   dressings all c/d/i
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, sedated.
   Labs / Radiology
   10.2 g/dL
   164 K/uL
   96 mg/dL
   1.4 mg/dL
   22 mEq/L
   4.2 mEq/L
   28 mg/dL
   110 mEq/L
   139 mEq/L
   29.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2142-2-10**]  12:00 AM
                             [**2142-2-10**]  12:03 AM
                             [**2142-2-10**]  04:00 AM
                             [**2142-2-10**]  04:03 AM
                             [**2142-2-10**]  09:25 AM
                             [**2142-2-10**]  03:58 PM
                             [**2142-2-10**]  10:05 PM
                             [**2142-2-10**]  11:38 PM
                             [**2142-2-11**]  04:13 AM
                             [**2142-2-11**]  04:19 AM
   WBC
   6.1
   6.7
   6.3
   6.5
   Hct
   31.7
   30.6
   29.3
   28.6
   26.8
   29.4
   Plt
   180
   155
   149
   164
   Cr
   1.1
   1.2
   1.4
   TropT
   0.03
   0.04
   0.03
   TCO2
   22
   23
   23
   Glucose
   154
   67
   96
   Other labs: PT / PTT / INR:13.5/29.4/1.2, CK / CKMB /
   Troponin-T:733/8/0.03, Fibrinogen:445 mg/dL, Lactic Acid:1.1 mmol/L,
   Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR today: minimally improved bilateral pleural effusions,
   cardiomegaly, hilar fullness. Small lung volumes.
   Assessment and Plan
   83 y/o M w/hx CAD, admitted for [**Month (only) **] for rectal Ca.  Had EBL 2500 ml in
   OR and required aggressive volume resuscitation with PRBCs.  S/p 500 ml
   diuresis yesterday with increase in creatinine.
 RESPIRATORY FAILURE: Intubated with concern for volume overload after
   transfusions.  Doing well on the ventilator with appropriate
   oxygenation and ventilation.  Patient changed to PSV 10/5 this morning.
   Placed on [**4-30**] this afternoon; patient comfortable with RSBI < 60.
   Diuresis today per surgery; Approximately 250 ml negative balance at 3
   PM. Appears that extubation will be possible later today.
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER):  s/p
   surgery.  Not active issue.
 ACUTE RENAL FAILURE:  [**Month (only) 60**] be secondary to diuresis versus ATN versus
   poor forward flow from CAD/CHF.   Send urine lytes.  Diurese per
   surgery. CVP 9 this AM with PEEP=5, consistent with actual filling
   pressure of approximately [**6-2**].
 DIABETES MELLITUS (DM), TYPE II: Insulin gtt for tight glycemic
   control postoperatively.  Goal 80-120.
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  Cardiac
   enzymes negative post-operatively.  ECG unchanged.  Holding aspirin and
   plavix perioperatively.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):
   Responded appropriately to transfusion last night.  Will check serial
   hct today.
 .H/O PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 .H/O PROSTATIC HYPERTROPHY, BENIGN (BPH)
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion, Blood sugar well controlled
   Lines:
   Multi Lumen - [**2142-2-9**] 06:22 PM
   16 Gauge - [**2142-2-9**] 07:22 PM
   18 Gauge - [**2142-2-9**] 07:22 PM
   Arterial Line - [**2142-2-9**] 07:23 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 mins

2142-02-12 08:17:00 Physician Resident Progress Note
Chief Complaint: blood loss/ respiratory failure
   24 Hour Events:
   Got 10mg IV Lasix with good diuretic effect, net -750cc for the day
   Extubated this AM
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2142-2-11**] 01:35 PM
   Heparin Sodium (Prophylaxis) - [**2142-2-11**] 08:00 PM
   Dextrose 50% - [**2142-2-12**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-12**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.3
   HR: 76 (69 - 89) bpm
   BP: 132/114(121){94/46(62) - 132/121(125)} mmHg
   RR: 17 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.3 kg (admission): 77.8 kg
   Height: 62 Inch
    CVP: 16 (8 - 16)mmHg
   Total In:
                                                                    696 mL
                                                                    130 mL
   PO:
   TF:
   IVF:
                                                                    321 mL
                                                                    105 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,446 mL
                                                                    185 mL
   Urine:
                                                                  1,321 mL
                                                                    185 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
                                                                     75 mL
   Balance:
                                                                   -750 mL
                                                                    -55 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 355 (355 - 422) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 10 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.36/42/113/22/-1 on AC 0.4  400 20 5
   Ve: 7.5 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Sedated, not responding to voice
   S1, S2, RRR no murmur
   Lungs with good air movement b/l, decreased crackles since admission
   Abd with BS present, small amount of bloody/brown liquid output from
   ostomy site.  Soft, non-distended.
   JP drain with serous fluid
   Pneumoboots in place
   LUE cool, swelling in arms b/l.
   Labs / Radiology
   165 K/uL
   10.0 g/dL
   63 mg/dL
   1.3 mg/dL
   22 mEq/L
   3.9 mEq/L
   31 mg/dL
   112 mEq/L
   141 mEq/L
   30.2 %
   6.1 K/uL
        [image002.jpg]
                             [**2142-2-10**]  04:03 AM
                             [**2142-2-10**]  09:25 AM
                             [**2142-2-10**]  03:58 PM
                             [**2142-2-10**]  10:05 PM
                             [**2142-2-10**]  11:38 PM
                             [**2142-2-11**]  04:13 AM
                             [**2142-2-11**]  04:19 AM
                             [**2142-2-11**]  05:45 PM
                             [**2142-2-11**]  06:00 PM
                             [**2142-2-12**]  05:17 AM
   WBC
   6.1
   6.7
   6.3
   6.5
   6.1
   Hct
   30.6
   29.3
   28.6
   26.8
   29.4
   30.7
   30.2
   Plt
   180
   155
   149
   164
   165
   Cr
   1.2
   1.4
   1.3
   TropT
   0.03
   0.04
   0.03
   TCO2
   23
   25
   Glucose
   67
   96
   63
   Other labs: PT / PTT / INR:13.5/29.4/1.2, CK / CKMB /
   Troponin-T:733/8/0.03, Fibrinogen:445 mg/dL, Lactic Acid:1.1 mmol/L,
   Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Ucx negative
   CXR [**2-11**]:
   ET tube tip is 3.8 cm above the carina.  NG tube tip is in the stomach.
     Left
   IJ line is in place.  Allowing the rotation of the patient there are
   persistent low lung volumes, small bilateral pleural effusions with adj
   acent
   right basal atelectasis, and left lower lobe consolidation.  cardiac
   contour is unchanged, there is no overt CHF.
   Assessment and Plan
   83yo gentleman with rectal carcinoma admitted for respiratory failure
   in the setting of volume resuscitation for intraoperative blood loss.
   # Respiratory failure:
   Most likely from volume overload in patient with compromised cardiac
   function.
   -          monitor closely after extubation
   -          would diurese with IV lasix
   # Altered mental status:
   Spoke with family and confirmed baseline mental status:  patient lives
   on his own level of a house; daughter lives in same building and
   prepares food/does bills.  Patient is able to bathe and dress himself.
   He is always oriented to person, place, time.
   -          ? effect of sedating medications
   -          Also possible that patient could have had watershed infarcts
   in setting of intraoperative bleed; however, would expect more
   localizing neuro symptoms
   -          Monitor off of sedation
   -          Restraints to prevent falls or removal of tubes/IVs
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   - defer management to surgery/oncology
 DIABETES MELLITUS (DM), TYPE II
   -          change to subcutaneous insulin given extremely low doses
   required on insulin gtt
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          would restart ASA at 81 (takes 325 at home)
   -          patient is unable to take Pos currently; will consider NG
   tube in AM
   -          hold plavix for now
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):
   -          Hct stabilized
 .H/O PROSTATIC HYPERTROPHY, BENIGN (BPH)
   -          continue Foley given patient straight-cath
s himself at home
   -          oliguria resolved
   # LLL consolidation
   -          no fevers or leukocytosis to suggest infection
   -          monitor for now; defer antibiotics
   # Recent foot injury:
   -          per patient
s daughter, he was on cipro [**2-7**] b/c of stepping
   on glass at home
   -          no evidence of infection on exam
   -          discussed with surgery, no indication for antibiotics at
   this time
   ICU Care
   Nutrition: NPO
   Glycemic Control:  insulin gtt
   Lines:
   Multi Lumen - [**2142-2-9**] 06:22 PM
   16 Gauge - [**2142-2-9**] 07:22 PM
   18 Gauge - [**2142-2-9**] 07:22 PM
   Arterial Line - [**2142-2-9**] 07:23 PM
   Prophylaxis:
   DVT: pneumoboots, heparin subQ
   Stress ulcer: PPI
   VAP:  mouth care, HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2142-02-12 11:03:00 Physician Attending Progress Note
Chief Complaint: blood loss anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated this AM.
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2142-2-11**] 01:35 PM
   Dextrose 50% - [**2142-2-12**] 06:10 AM
   Pantoprazole (Protonix) - [**2142-2-12**] 09:01 AM
   Heparin Sodium (Prophylaxis) - [**2142-2-12**] 09:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-12**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.9
C (98.4
   HR: 82 (69 - 89) bpm
   BP: 145/79(103){94/46(62) - 145/121(125)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.8 kg (admission): 77.8 kg
   Height: 62 Inch
   CVP: 12 (8 - 16)mmHg
   Total In:
                                                                    696 mL
                                                                    158 mL
   PO:
   TF:
   IVF:
                                                                    321 mL
                                                                    133 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,446 mL
                                                                    295 mL
   Urine:
                                                                  1,321 mL
                                                                    295 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
                                                                     75 mL
   Balance:
                                                                   -750 mL
                                                                   -137 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 463 (355 - 463) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   RSBI: 45
   PIP: 11 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.33/45/96.[**Numeric Identifier 244**]/22/-2
   Ve: 7.5 L/min
   PaO2 / FiO2: 97
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, mucus membranes dry
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R base, Bronchial: left base, Wheezes : insp and exp wheezes
   anteriorly)
   Abdominal: Non-tender, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   165 K/uL
   86 mg/dL
   1.3 mg/dL
   22 mEq/L
   3.9 mEq/L
   31 mg/dL
   112 mEq/L
   141 mEq/L
   30.2 %
   6.1 K/uL
        [image002.jpg]
                             [**2142-2-10**]  09:25 AM
                             [**2142-2-10**]  03:58 PM
                             [**2142-2-10**]  10:05 PM
                             [**2142-2-10**]  11:38 PM
                             [**2142-2-11**]  04:13 AM
                             [**2142-2-11**]  04:19 AM
                             [**2142-2-11**]  05:45 PM
                             [**2142-2-11**]  06:00 PM
                             [**2142-2-12**]  05:17 AM
                             [**2142-2-12**]  08:56 AM
   WBC
   6.7
   6.3
   6.5
   6.1
   Hct
   29.3
   28.6
   26.8
   29.4
   30.7
   30.2
   Plt
   155
   149
   164
   165
   Cr
   1.4
   1.3
   TropT
   0.04
   0.03
   TCO2
   23
   25
   25
   Glucose
   96
   63
   86
   Other labs: PT / PTT / INR:13.5/29.4/1.2, CK / CKMB /
   Troponin-T:733/8/0.03, Fibrinogen:445 mg/dL, Lactic Acid:1.1 mmol/L,
   Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: LLL consolidation, mild interstitial edema
   Microbiology: Urine cx negative
   Assessment and Plan
   83 y/o M with rectal Ca s/p [**Month (only) **], admitted here for postoperative
   monitoring given EBL and aggressive fluid resuscitation.
 RESPIRATORY FAILURE:  Concern for volume overload given
   transfusions.  Now extubated, doing well.  LLL consolidation concerning
   but afebrile without a leukocytosis, so will follow but not add empiric
   antibiotics for now.  Conintued negative fluid balance as likely
   entering window of improvement from SIRS physilogy post operatively.
 ACUTE RENAL FAILURE:  Creatinine improved today.  Will continue to
   follow.
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER):  s/p [**Month (only) **].
 DIABETES MELLITUS (DM), TYPE II:  Insulin gtt.  Will d/w surgery re:
   timing of transition to SQ.
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  D/w surgery
   re: restarting aspirin.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):  hct
   stable.
 .H/O PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 .H/O PROSTATIC HYPERTROPHY, BENIGN (BPH)
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Insulin infusion, Blood sugar well controlled
   Lines:
   Multi Lumen - [**2142-2-9**] 06:22 PM
   16 Gauge - [**2142-2-9**] 07:22 PM
   18 Gauge - [**2142-2-9**] 07:22 PM
   Arterial Line - [**2142-2-9**] 07:23 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35
   ------ Protected Section ------
   Patient with prominent inguinal canal concering for hernia
do not have
   comparative exam but may be chronic
will discuss with surgery team in
   light of recent operative intervetion.
   ------ Protected Section Addendum Entered By:[**Name (NI) 983**] [**Last Name (NamePattern1) 984**], MD
   on:[**2142-2-12**] 15:53 ------

2142-02-13 09:27:00 Physician Attending Progress Note
Chief Complaint: blood loss anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2142-2-12**] 03:00 PM
   FROM PACU
   Extubated yesterday morning.
   More interactive today.
   C/o nausea.
   Diuresed overnight.
   Patient unable to provide history: Encephalopathy
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2142-2-12**] 08:00 PM
   Furosemide (Lasix) - [**2142-2-13**] 05:00 AM
   Metoprolol - [**2142-2-13**] 05:30 AM
   Other medications:
   pantoprazole, insulin sliding scale
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth, thirsty
   Nutritional Support: NPO
   Gastrointestinal: Nausea, No(t) Emesis
   Flowsheet Data as of  [**2142-2-13**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.5
C (97.7
   HR: 100 (82 - 113) bpm
   BP: 142/67(96){92/50(66) - 151/94(111)} mmHg
   RR: 30 (20 - 30) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.9 kg (admission): 77.8 kg
   Height: 62 Inch
   CVP: -1 (-1 - 20)mmHg
   Total In:
                                                                    367 mL
                                                                     46 mL
   PO:
   TF:
   IVF:
                                                                    342 mL
                                                                     46 mL
   Blood products:
   Total out:
                                                                  2,130 mL
                                                                  1,620 mL
   Urine:
                                                                  2,130 mL
                                                                  1,565 mL
   NG:
   Stool:
   Drains:
                                                                     35 mL
   Balance:
                                                                 -1,763 mL
                                                                 -1,574 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.33/45/81.[**Numeric Identifier 253**]/21/-2
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: mucus membranes dry
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), I/VI
   SEM at apex
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   [**12-27**] way up bilaterally)
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.5 g/dL
   207 K/uL
   116 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.3 mEq/L
   29 mg/dL
   111 mEq/L
   144 mEq/L
   31.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2142-2-11**]  04:13 AM
                             [**2142-2-11**]  04:19 AM
                             [**2142-2-11**]  05:45 PM
                             [**2142-2-11**]  06:00 PM
                             [**2142-2-12**]  05:17 AM
                             [**2142-2-12**]  08:56 AM
                             [**2142-2-12**]  12:29 PM
                             [**2142-2-12**]  03:21 PM
                             [**2142-2-13**]  04:51 AM
                             [**2142-2-13**]  05:14 AM
   WBC
   6.5
   6.1
   8.5
   Hct
   29.4
   30.7
   30.2
   31.9
   Plt
   164
   165
   207
   Cr
   1.4
   1.3
   1.4
   TropT
   0.03
   TCO2
   23
   25
   25
   23
   24
   25
   Glucose
   96
   63
   86
   116
   Other labs: PT / PTT / INR:13.9/31.2/1.2, CK / CKMB /
   Troponin-T:733/8/0.03, Fibrinogen:445 mg/dL, Lactic Acid:1.1 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Imaging: No new imaging.
   Microbiology: Sputum sample contaminated
   Assessment and Plan
   83 y/o M w/rectal cancer s/p [**Month (only) **], with blood loss of 2500 ml during
   operation so sent to [**Hospital Unit Name 44**] afterwards given aggressive volume
   resuscitation.  Now extubated, doing well.
 RESPIRATORY FAILURE:  Resolved.  Felt to be due to volume overload,
   responded well to diuresis.  Appears somewhat dry on exam this AM -
   will d/w surgery whether he may benefit from small amount of IVF.
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER):  s/p [**Month (only) **].
 ACUTE RENAL FAILURE: Creatinine 1.4 today from 1.3.  [**Month (only) 60**] be due to
   intravascular volume depletion.  Baseline creatinine appears to be in
   low-mid 1's (likely from vascular disease and DM).
 ALTERED MENTAL STATUS:  MS appears improved today compared with
   yesterday, likely a result of slowly clearing his sedation.  Would
   consider further imaging if he does not continue to improve.
 DIABETES MELLITUS (DM), TYPE II:  On sliding scale insulin.
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  Will titrate
   up beta-blocker for improved HR control.  Holding aspirin and plavix as
   he cannot yet take po.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):  Hct
   stable.
 .H/O PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 .H/O PROSTATIC HYPERTROPHY, BENIGN (BPH)
   .
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2142-2-9**] 06:22 PM
   16 Gauge - [**2142-2-9**] 07:22 PM
   Arterial Line - [**2142-2-9**] 07:23 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent:

2142-02-14 07:35:00 Physician Resident Progress Note
Chief Complaint: blood loss/respiratory failure
   24 Hour Events:
 ARTERIAL LINE - STOP [**2142-2-13**] 11:09 AM
   Family wanted vascular surgery to be informed about admit, gen [**Doctor First Name 458**]
   made aware of this request
   A line removed
   Remained confused
   SUBJECTIVE:
   Thirsty
   Denies pain
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2142-2-13**] 08:00 PM
   Metoprolol - [**2142-2-14**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-14**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 95 (80 - 101) bpm
   BP: 137/79(91) {98/13(42) - 157/89(96)} mmHg
   RR: 19 (19 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.9 kg (admission): 77.8 kg
   Height: 62 Inch
    CVP: 10 (1 - 23)mmHg
   Total In:
                                                                    120 mL
                                                                     36 mL
   PO:
   TF:
   IVF:
                                                                    120 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  2,665 mL
                                                                    410 mL
   Urine:
                                                                  2,580 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
                                                                     65 mL
                                                                     25 mL
   Balance:
                                                                 -2,545 mL
                                                                   -374 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   Awake, oriented to place and patient
s age (with minor prompting), year
 Talkative, smiling.
   Left IJ in place
   S1, S2, RRR, no murmur
   Lungs with good air movement b/l, no crackles
   Abd with incision, healing well.  JP drain with minimal amount of
   serosanguinous drainage.  Soft, NT.
   LE with pneumoboots in place, no edema.
   Labs / Radiology
   233 K/uL
   11.3 g/dL
   163 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.7 mEq/L
   28 mg/dL
   111 mEq/L
   149 mEq/L
   34.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2142-2-11**]  04:19 AM
                             [**2142-2-11**]  05:45 PM
                             [**2142-2-11**]  06:00 PM
                             [**2142-2-12**]  05:17 AM
                             [**2142-2-12**]  08:56 AM
                             [**2142-2-12**]  12:29 PM
                             [**2142-2-12**]  03:21 PM
                             [**2142-2-13**]  04:51 AM
                             [**2142-2-13**]  05:14 AM
                             [**2142-2-14**]  04:05 AM
   WBC
   6.1
   8.5
   7.4
   Hct
   30.7
   30.2
   31.9
   34.5
   Plt
   165
   207
   233
   Cr
   1.3
   1.4
   1.1
   TCO2
   23
   25
   25
   23
   24
   25
   Glucose
   63
   86
   116
   163
   Other labs: PT / PTT / INR:13.9/31.2/1.2, CK / CKMB /
   Troponin-T:733/8/0.03, Fibrinogen:445 mg/dL, Lactic Acid:1.1 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:1.7 mg/dL
   CXR [**2-13**]:
   Similar appearance of chest, including low lung volumes, and
   bilateral lower lobe opacities representing effusion, atelectasis, or b
   oth.
   Assessment and Plan
   83yo man s/p [**Month (only) **] for T3 rectal carcinoma c/b b 2.5L estimated blood
   loss.
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   -          s/p [**Month (only) **]
   -          defer further management to primary team
 HYPERNATREMIA (HIGH SODIUM)
   Free water deficit is 3L.  To correct Na at rate of 0.5 mEq per hour,
   he should receive 3L over 18 hours.
   -          would give D5 at 150cc/hr for total of 3L and continue to
   allow him to have sips.
   -          Monitor lytes [**Hospital1 **]
   # Mental status change:
   -          most likely due to sedating medications in addition to
   disorientation in hospital setting
   -          will discuss with patient
s family whether he has history of
   alcohol abuse
   -          reorient with help of family; chemical restraints and
   physical restraints if needed
 DIABETES MELLITUS (DM), TYPE II
   -          sugars in 90s, low 100s yesterday, but up to 200 this AM
   -          will have increased insulin requirement in setting of
   receiving D5
   -          will increase sliding scale for improved coverage
   -          only on glyburide at home, currently holding
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          continue ASA at 81, but will discuss with surgery
   -          would restart plavix, but will discuss with surgery
   -          continue beta blocker; will transition to PO dose
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   -          Hct stable s/p transfusion
 .H/O PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   -          not active, monitor on exam
 .H/O PROSTATIC HYPERTROPHY, BENIGN (BPH)
   -          continue foley due to h/o obstruction with need for straight
   cath
   ICU Care
   Nutrition: sips
   Glycemic Control:  SSI
increase as above
   Lines:
   Multi Lumen - [**2142-2-9**] 06:22 PM
   16 Gauge - [**2142-2-9**] 07:22 PM
   Prophylaxis:
   DVT: heparin subQ, pneumoboots
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition: consider call-out to floor if doing well in afternoon

2142-02-14 12:27:00 Physician Attending Progress Note
Chief Complaint: s/p [**Month (only) **] for colon CA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2142-2-13**] 11:09 AM
   Denies pain.
   History obtained from Patient
   Allergies:
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Rash;
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2142-2-14**] 08:13 AM
   Heparin Sodium (Prophylaxis) - [**2142-2-14**] 08:13 AM
   Metoprolol - [**2142-2-14**] 10:09 AM
   Other medications:
   please see [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-2-14**] 12:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 95 (80 - 95) bpm
   BP: 137/79(91) {98/13(42) - 157/89(96)} mmHg
   RR: 19 (19 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.9 kg (admission): 77.8 kg
   Height: 62 Inch
   CVP: 6 (4 - 23)mmHg
   Total In:
                                                                    120 mL
                                                                    121 mL
   PO:
   TF:
   IVF:
                                                                    120 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  2,665 mL
                                                                    580 mL
   Urine:
                                                                  2,580 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
                                                                     65 mL
                                                                     25 mL
   Balance:
                                                                 -2,545 mL
                                                                   -459 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : scant)
   Abdominal: Soft, Non-tender, ostomy intact; small drainage from
   incisions
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: verbal
   stimuli, Oriented (to): person, place, and date ([**2142-2-14**]), Movement:
   purposeful, Tone: Normal
   Labs / Radiology
   11.3 g/dL
   233 K/uL
   163 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.7 mEq/L
   28 mg/dL
   111 mEq/L
   149 mEq/L
   34.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2142-2-11**]  04:19 AM
                             [**2142-2-11**]  05:45 PM
                             [**2142-2-11**]  06:00 PM
                             [**2142-2-12**]  05:17 AM
                             [**2142-2-12**]  08:56 AM
                             [**2142-2-12**]  12:29 PM
                             [**2142-2-12**]  03:21 PM
                             [**2142-2-13**]  04:51 AM
                             [**2142-2-13**]  05:14 AM
                             [**2142-2-14**]  04:05 AM
   WBC
   6.1
   8.5
   7.4
   Hct
   30.7
   30.2
   31.9
   34.5
   Plt
   165
   207
   233
   Cr
   1.3
   1.4
   1.1
   TCO2
   23
   25
   25
   23
   24
   25
   Glucose
   63
   86
   116
   163
   Other labs: PT / PTT / INR:13.9/31.2/1.2, CK / CKMB /
   Troponin-T:733/8/0.03, Fibrinogen:445 mg/dL, Lactic Acid:1.1 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   83 year old man s/p [**Month (only) **] for colon cancer.  Overall, he has improved
   significantly and at present has good mental status, asking questions
   and fully oriented (although this waxes and wanes, c/w delirium).
 CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   n        no acute treatment
 HYPERNATREMIA (HIGH SODIUM)
   Replete free water
 DIABETES MELLITUS (DM), TYPE II
   SQ insulin
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Resume aspirin, beta blockade
   Discuss Plavix with surgery
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   Stable. Follow Hct
 .H/O PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
   Consult vascular
 .H/O PROSTATIC HYPERTROPHY, BENIGN (BPH)
   Leave Foley in place
   ICU Care
   Nutrition: Discuss with surgery
   Glycemic Control:  adequate
   Lines:
   Multi Lumen - [**2142-2-9**] 06:22 PM
   16 Gauge - [**2142-2-9**] 07:22 PM
   Discuss removal of triple-lumen with surgery; he has a non-accessed
   port.
   Prophylaxis:
   DVT: SQH, boots
   Stress ulcer: n/a
   VAP: n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Discuss with surgery ; he is probably ready for floor
   trasnfer
   Total time spent: 35 min